US06248889B1
(R)-6-Benzyloxyhex-1-ene oxide was prepared by copper catalyzed addition of 3-benzyloxypropyl-1-magnesium bromide to R-epichlorohydrin to form R-1-chloro-6-benzyloxyhexan-2-ol, which was then ring closed under basic conditions to (R)-6-benzyloxyhex-1-ene oxide. This epoxide was then treated with methyl lithium (1.5 M in diethyl ether) in the presence of dilithiotetrachlorocuprate (0.02 molar equivalents, 0.1 M in tetrahydrofuran) to yield (S)-1-benzyloxy-5-hydroxyheptane.

reactant | (R)-6-benzyloxyhex-1-ene oxide | C(C1=CC=CC=C1)OCCCC[C@@H]1CO1 | C13H18O2
reactant | methyl lithium | 1.5 M | C[Li]
product | (S)-1-benzyloxy-5-hydroxyheptane | C(C1=CC=CC=C1)OCCCC[C@H](CC)O | C14H22O2
